Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9]=[O:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10],-1.0913119329899998
[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-8.2877340185
[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-0.34013515112
[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],-3.97920553282
[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.16854239938
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]1[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])[H:10],2.19729637851
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:4]([H:5])([H:6])[O:7][H:8].[O:1][C:2][C:3],3.96732504738
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.6097810287
[C:1]=[C:2]([C:3]([H:4])=[O:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6]>>[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.7140314426499998
[H:1][C:2][O:11][C:9]([C:4](=[C:3])[C:5]([H:6])([H:7])[H:8])[H:10]>>[H:1][c:2]1[c:3][c:4]([C:5]([H:6])([H:7])[H:8])[c:9]([H:10])[o:11]1,-5.31128875432
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][O:2][C@:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.62238352698
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.83332983063
[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7],1.93305012644
[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.09048980733
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[O:9][H:10],5.3364950354800005
[C:1]([C:2]#[C:3])([H:7])[C:10]([H:4])([C:8](=[C:5][H:6])[H:9])[H:11]>>[C:1]=[C:2]1[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]1[H:11],-2.24329257458
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:3]([H:4])(=[C:10]=[C:8]([C:5]([H:6])[H:7])[H:9])[H:13].[H:1][C:2]#[C:11][H:12],0.84302841386
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.6194456432
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:11][H:12].[H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-1.80542131758
[C:7][O:8][H:9].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-3.19127877
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5],2.45479807068
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],4.56292710504
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.80973716123
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[H:8]>>[C:3]([H:4])([H:5])[C:6](=[O:7])[H:8].[O:1]=[C:2],0.40126287941
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.28100403583
[C:5]([H:6])([H:7])=[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-2.07990938965
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-1.89364938186
[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-6.265477893130001
[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-1.78335895643
